US04061761
To a solution of 6.4 g of 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone in 28 ml of methanol were added dropwise, at a reaction temperature of 5° C, a solution of 0.6 g of sodium borohydride in 5 ml of methanol and the solution was then stirred for 1 hour at room temperature. The reaction mixture was acidified while cooling (+5° C) with 2 N HCl and the solvent was distilled off under reduced pressure. After adding 70 ml of water, extraction followed with 200 ml of diethyl ether, the organic phase was dried over sodium sulfate, the solvent was distilled off and 2-bromo-1-(4-chloro-3-dimethylsulfamoylphenyl)-ethanol was obtained as fair yellow to colorless oil.

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | 6.4 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 28 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 2-bromo-1-(4-chloro-3-dimethylsulfamoylphenyl)-ethanol | BrCC(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H13BrClNO3S
